US07491710B2
Phenylphosphonic acid 3-benzo[b]thiophen-2-yl-1H-indazol-5-yl ester methyl ester
The title compound is prepared according to procedure L employing 30 mg of 3-iodo-5-(methoxyphenylphosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester, 21.2 mg of benzo[b]thiophene-2-boronic acid, 2.23 mg of 1,1′-bis(diphenylphosphino)ferrocene palladium(II) dichloride and 71 mg of cesium carbonate in 500 μl of dimethylformamide. 0.7 mg of phenylphosphonic acid 3-benzo[b]thiophen-2-yl-1H-indazol-5-yl ester methyl ester is isolated.

reactant | 3-iodo-5-(methoxyphenylphosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester | 30 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OP(=O)(C1=CC=CC=C1)OC)I | C19H20IN2O5P
reactant | benzo[b]thiophene-2-boronic acid | 21.2 mg | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | cesium carbonate | 71 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 500 μl | CN(C=O)C | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium(II) dichloride | 2.23 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | phenylphosphonic acid 3-benzo[b]thiophen-2-yl-1H-indazol-5-yl ester methyl ester | 0.7 mg | COP(OC=1C=C2C(=NNC2=CC1)C1=CC2=C(S1)C=CC=C2)(=O)C2=CC=CC=C2 | C22H17N2O3PS
